* /home/saurabh/desktop/esim/examples/differentiator/differentiator.cir

.include lm_741.sub
v1  in gnd pwl(0m 0 0.5m 5 25m 5 25.5m -5 50m -5 50.5m 5 75m 5 75.5m -5 100m -5)
* u1  in plot_v1
* u2  out plot_v1
r1  in net-_c1-pad2_ 100k
c1  net-_c1-pad1_ net-_c1-pad2_ 10n
r2  net-_r2-pad1_ gnd 1k
r3  net-_c1-pad1_ out 1k
r4  out gnd 1k
x1 ? net-_c1-pad1_ net-_r2-pad1_ net-_x1-pad4_ ? out net-_x1-pad7_ ? lm_741
v3 net-_x1-pad7_ gnd  dc 15
v2 gnd net-_x1-pad4_  dc 15
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
